US07759373B2
To a solution of 4-[(5-benzo[b]furoyl)aminoacetyl]-2-chlorothiophene (543 mg) in N,N-dimethylformamide (10 ml) was added sodium hydride (71.3 mg, 60% mineral oil) under ice-cooling, and the mixture was stirred at room temperature for 20 minutes. After ice-cooling, ethyl bromoacetate (0.21 ml) was added dropwise to the mixture, and the resulting mixture was stirred at room temperature for 40 minutes. After cooling, 5% aqueous citric acid solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to obtain a crude product of ethyl 3-[(5-benzo[b]furoyl)amino]-4-(5-chlorothiophen-3-yl)-4-oxobutyrate (896 mg).

reactant | 4-[(5-benzo[b]furoyl)aminoacetyl]-2-chlorothiophene | 543 mg | O1C2=C(C=C1)C=C(C=C2)C(=O)NCC(=O)C=2C=C(SC2)Cl | C15H10ClNO3S
reactant | sodium hydride | 71.3 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.21 ml | BrCC(=O)OCC | C4H7BrO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[(5-benzo[b]furoyl)amino]-4-(5-chlorothiophen-3-yl)-4-oxobutyrate | 896 mg | O1C2=C(C=C1)C=C(C=C2)C(=O)NC(CC(=O)OCC)C(=O)C2=CSC(=C2)Cl | C19H16ClNO5S
